data/mechanisms/records/IMS8-EQT8.2d.json
{"mechanism_id": "IMS8-EQT8.2d", "species": [{"species_id": "methyl_ethyl_ether_radical_cation", "mapped_smiles": "[CH3:1][CH2:2][O+:3][CH3:4]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "ethyl_cation", "mapped_smiles": "[CH3:1][CH2+:2]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "methoxy_radical", "mapped_smiles": "[O:3][CH3:4]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["methyl_ethyl_ether_radical_cation"]}, {"state_id": "state_products", "species_ids": ["ethyl_cation", "methoxy_radical"]}], "steps": [{"step_id": "step_inductive", "from_state": "state_precursor", "to_state": "state_products", "step_class": "inductive_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "atom", "atom_maps": [3]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_inductive", "support_type": "textbook_proposed", "locator": {"page": 166, "equation": "Table 8.2", "figure": null, "panel": null, "section": "8.3"}, "confidence": 0.75, "curator_note": "Table 8.2, row 4 (upper): OE+. inductive (charge-site) cleavage 'i', charge-MIGRATION product AB+ + .CD. Book draws 1 arc -- a curved arrow pulling the C-O bonding pair onto the charged oxygen (heterolysis). Encoded as the single drawn 2-electron move (bond C-O -> atom O). Printed example is methyl ethyl ether C2H5-O(+.)CH3 -> C2H5+ (m/z 29) + .OCH3. No m/z / intensity printed."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 60.057, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_Et", "species_id": "ethyl_cation", "step_id": "step_inductive", "observed_mz": 29.0386, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.6}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-26T00:00:00Z", "modified_at": "2026-07-26T00:00:00Z"}}
